US08383820B2
3-(6-Bromo-pyridin-3-yloxy)-benzoic acid
Prepared from 2-bromo-5-fluoropyridine and ethyl 3-hydroxybenzoate. 1H NMR (400 MHz, DMSO-d6) δ 13.12 (br. s., 1 H), 8.28 (d, 1 H), 7.78 (d, 1 H), 7.69 (d, 1 H), 7.56 (t, 1 H), 7.48-7.54 (m, 2 H), 7.39 (dd, 1 H)

reactant | 2-bromo-5-fluoropyridine | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | ethyl 3-hydroxybenzoate | OC=1C=C(C(=O)OCC)C=CC1 | C9H10O3
product | 3-(6-Bromo-pyridin-3-yloxy)-benzoic acid | BrC1=CC=C(C=N1)OC=1C=C(C(=O)O)C=CC1 | C12H8BrNO3
